US07560558B2
6-Methoxy-7-pyridin-2-yl-isoquinoline (118 mg) and sodium thiomethoxide (350 mg) were suspended in N,N-dimethylformamide (3 ml), and the mixture was stirred at 150° C. for 4 hr. The reaction solution was cooled to room temperature, the reaction solution was then filtered, and the solvent was removed from the filtrate by distillation under the reduced pressure. The residue was purified by thin layer chromatography using chloroform-methanol to give 7-pyridin-2-yl-isoquinolin-6-ol (30 mg, yield 27%).

reactant | 6-Methoxy-7-pyridin-2-yl-isoquinoline | 118 mg | COC=1C=C2C=CN=CC2=CC1C1=NC=CC=C1 | C15H12N2O
reactant | sodium thiomethoxide | 350 mg | C[S-].[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 7-pyridin-2-yl-isoquinolin-6-ol | 30 mg, yield 27% | N1=C(C=CC=C1)C1=C(C=C2C=CN=CC2=C1)O | C14H10N2O
